US06703392B2
N-[2-(3,4-Dimethoxy-phenyl)-ethyl]-2,5-dimethoxyphenyl-acetamide:
prepared by reaction of 3,4-dimethoxyphenylethylamine with 2,5-dimethoxyphenyl acetyl chloride.

reactant | 3,4-dimethoxyphenylethylamine | COC=1C=C(C=CC1OC)CCN | C10H15NO2
reactant | 2,5-dimethoxyphenyl acetyl chloride | COC1=C(C=C(C=C1)OC)CC(=O)Cl | C10H11ClO3
product | N-[2-(3,4-Dimethoxy-phenyl)-ethyl]-2,5-dimethoxyphenyl-acetamide | COC=1C=C(C=CC1OC)CCNC(CC1=C(C=CC(=C1)OC)OC)=O | C20H25NO5
